Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"I was depressed and overwhelmed with all the problems in my 
life and thought about suicide."
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with no formal psychiatric history, BIBA after overdosing 
on acetaminophen.  Patient reports multiple recent stressors 
including losing her job this ___, breaking up with her 
boyfriend on ___ after a difficult period in their 
relationship, and financial and family stressors.  She says she 
has been feeling “depressed, down” for the past few months, in 
the setting of relationship with her boyfriend.  She has been 
avoiding other social contacts, lost interest in parties or 
friends, has decreased appetite, and has had trouble sleeping.  
She denies problems with concentration or school work.  She 
denies feeling guilty.  She has had “fleeting, impulsive” 
suicidal thoughts, but has “never lasted for more than a 
second.”  She denies having made preparations for suicide.
On the night of admission, she says she was feeling “lonely” 
and “sad” about her breakup.  She had taken Tylenol in the past 
to help her sleep, and says she took some Tylenol “to get drowsy 
enough to fall asleep.”  She took a number of pills, and then 
read the back of the bottle, and thought, “I could hurt my liver 
and die.”  She says she did not want to die, “just to escape the 
pain for a while.”  She did write a note to her family, when she 
became afraid that she might die, and didn’t want them to find 
her with no explanation.  She called a friend for help, and the 
friend called ___.  She denies suicidal ideation now, and denies 
wish or intent to be dead.  
Patient also c/o anxiety symptoms in setting of “getting upset 
with someone or getting into an argument.”  At those times, she 
will “hyperventilate, throw up, cry nonstop.”  She turns to 
others for help.  There is always a trigger for events.  Denies 
unprovoked panic attacks.  Denies GAD symptoms.  Denies 
agoraphobia.
Denies history of elevated mood, decreased need for sleep, 
impulsivity, increased goal-directed activity.  Denies history 
of AH, VH, IOR, PI.

 
Past Medical History:
Past Psychiatric History:  No formal history of psychiatric 
illness, treatment, or hospitalization.  Denies history of 
suicide attempts or self-injury.  Has seen a therapist at ___, 
___, for three visits, and enjoys working with her.  History of 
traumatic childhood, with both parents using drugs and attempted 
suicide, patient removed from the parents when she was ___ 
years old, and witnessed domestic violence between her parents.  
She herself was sexually assaulted during her freshman year of 
college.

Medical History:
Asthma
Sleep apnea
Kawasaki’s disease
Pulmonary HTN

Substance History: Denies illicit drug use and tobacco use.  
Drinks alcohol “rarely,” will drink one drink in a night, no 
history of blackouts, withdrawal symptoms

 
Social History:
Social Hx:
The patient lives with her grandmother who is ___ years old.  She
has lived with her grandmother since the age of ___ because of her
mother's psychiatric problems and substance abuse.  She reports
that she now has a good relationship with her mother.  She will
be a senior at ___ in the ___ studying criminal
justice.  She describes herself as a "social butterfly" and says
she has lots of friends and is involved in lots of activities. 
She was popular in HS and was voted "most athletic."  Was on the
prom committee, student paper, etc.  She has 2 twin sisters on
her mother's side of the family and 6 brothers and sisters on 
her
fathers side of the family. She is sexually active and 
occasionally uses protection. Hx of sexual assault with rape in 
___.

Substance Abuse Hx:
She denies smoking or illicit drugs but admits to occasional 
alcohol. 

 
Family History:
Mother w/ thyroid problems, GM with HTN, bronchitis, Mult family 
members with DM, No fam hx of seizures, sudden cardiac death.

Both parents with history of substance abuse.

 
Physical Exam:
Appearance: ___ ___ woman with appropriate hygeine 
and hair wrapped in a scarf. She is sitting up in the treatment 
room.
Behavior: Cooperative and well-mannered. Good eye contact. No 
psychomotor agitation or retardation.
Speech: Speech is normal in quantity and quality. No pressured 
speech.
Mood: "Ok"
Affect: Blunted at times, others bright (mildly labile).
Thought Form: Coherent, linear, goal-directed. No flight of 
ideas or blocking.
Thought Content: No apparent delusional thinking.
Abnormal Perceptions:  Pt denies AVH.
Neurovegitative Sx: Poor sleep and appetite.  Low energy.
Suicidality/Homicidality: Patient currently denies any SI or HI. 
No suicidal plans or access to weapons.
Insight/Judgement:  Fair, Fair.
Cognitive:
          Sensorium: Alert
          Orientation:  Oriented x 4
          Attention: Able to spell WORLD backwards, serial 7's.
          Memory: ___ registration, ___ recall.
          Calculations:  9 quarters = $2.25
          Fund of Knowledge: Knows candidates for president, 
current events.
          Proverb Interpretation: Appropriate
          Similairities/Analogies:  apple/orange appropriate 
reasoning.

 
Pertinent Results:
___ 12:20PM BLOOD WBC-10.5 RBC-4.16* Hgb-11.7* Hct-34.8* 
MCV-84 MCH-28.2 MCHC-33.7 RDW-13.4 Plt ___
___ 12:20PM BLOOD Neuts-55.9 ___ Monos-4.2 Eos-1.8 
Baso-0.5
___ 02:25PM BLOOD ___ PTT-32.8 ___
___ 12:20PM BLOOD Plt ___
___ 12:20PM BLOOD Glucose-111* UreaN-10 Creat-0.9 Na-140 
K-4.1 Cl-107 HCO3-22 AnGap-15
___ 12:20PM BLOOD ALT-15 AST-17 LD(LDH)-155 AlkPhos-55 
Amylase-70 TotBili-0.5
___ 12:20PM BLOOD Albumin-4.2 Calcium-9.4 Phos-2.4*# Mg-2.1
___ 02:42PM BLOOD VitB12-300 Folate-11.5
___ 12:20PM BLOOD TSH-1.5
___ 12:20PM BLOOD Free T4-1.3
___ 02:42PM BLOOD ASA-NEG Ethanol-69* Acetmnp-52.2* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:20PM BLOOD ASA-NEG Ethanol-97* Acetmnp-70* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Legal: ___
Precautions: None needed.

Behavioral: Patient was generally pleasant to both staff and 
fellow patients throughout her hospital course. There were no 
events of acute agitation, aggressive or violent behavior, use 
of inappropriate language, or need for isolation/separation. 
Patient was cooperative with treatment team each day and 
particpiated well in groups.

Psychiatric: Over the course of her admission, met with patient 
as a team to discuss her suicidal gesturing and symptoms of 
depression. On admission, the patient claimed that she was not 
acutely suicidal and that she just didn't know how to deal with 
the myriad of emotional problems she was experiencing in 
response to numerous life stressors, including a recent break up 
with her boyfriend of ___ years, losing her job (never been 
fired before), anticipated graduation from college, etc. She was 
feeling "lonely and sad," experiencing decreased sleep, appetite 
and interest in social activities that had previously been 
pleasurable. She claims to have taken too much Tylenol on 
accident in an attempt to "fall asleep quickly" and it was only 
after checking the recommended dosage on the bottle that she 
realized she might "get liver failure and die." 

The patient maintained throughout her hospital stay that she was 
at no time suicidal and just wanted to "escape the pain for 
awhile." She did not reveal further suicidal plans or 
indications that she was an acute threat to herself or others. 
After admission, the patient reported "feeling better" with 
increased sleep and appetite, and became more future-oriented, 
looking forward to rejoining sessions with her therapist at 
college. Patient repeatedly denied antidepressant medication 
during her hospital course, and opted instead to focus on 
re-establishing regular psychotherapy that focuses on building 
coping skills, which the patient admits "is the biggest 
problem." Patient participated well in groups. An MMPI was 
performed but not completed before discharge - patient will call 
Dr. ___ to follow-up on results.

Immediately after discharge will f/u with Ms. ___, her 
therapist at ___, and good support is in 
place from parents and friends.

Safety: Patient did not pose an acute safety risk to himself or 
others and does not have a history of violence or self-injurious 
behavior. No restraints or interventions necessary to maintain 
safety on the unit.

Family: Patient was visited on HD#1 by father who was supportive 
and came to offer any help he could in her treatment. Attempted 
to reach mother via phone on ___ and left a message.

Medical: On admission, reported history of asthma, pulmonary 
HTN, and sleep apnea. No acute interventions were needed during 
hospital stay and provided albuterol PRN was adequate for 
asthma. Sleep apnea protocol was administered. LFTs were mildly 
elevated on admission and trended down during stay (currently: 
ALT-15, AST-17). No other abnormalities addressed.
 
Medications on Admission:
Albuterol IH ___ Puffs PRN: dyspnea
___ OCP
 
Discharge Medications:
None.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Adjustment disorder with depression vs. MDD
Axis II: Cluster B traits
Axis III: Asthma, sleep apnea, pulmonary HTN
Axis IV: None
Axis V: 60
 
Discharge Condition:
Stable, improved.

Mental Status Exam:
Appearance:Good eye contact, no psychomotor abnormalities.
Speech:Fluent, normal r/r/v
Mood:“good, a lot better than when I came in.”
Affect:   well related, appears euthymic
Thought Process: Linear and g.d.
Thought Content: No unusual content.  Denies SI. Future 
oriented
Abnormal Perceptions:Denies

 
Discharge Instructions:
Please follow up with scheduled outpatient providers. Please 
return to the ED if you have worsening thoughts of hurting 
yourself or others.
 
Followup Instructions:
___